US04638067
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-[3-[[(1-methylethyl)amino]methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid
A suspension of 1.1 g (3.9 mmole) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.4 g (10 mmole) of N-(2-propyl)-3-pyrrolidinemethanamine and 50 ml of acetonitrile was refluxed for 2 hours. The precipitate was removed by filtration, washed with acetonitrile, ether, and dried 221° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.9 mmole, 1.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | N-(2-propyl)-3-pyrrolidinemethanamine | 10 mmole, 1.4 g | CC(C)NCC1CNCC1 | C8H18N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-[3-[[(1-methylethyl)amino]methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNC(C)C)F)=O)C(=O)O | C21H25F2N3O3
